US05775329
To a solution of sodium methoxide prepared by slowly adding 2.4 g (54 mmol) of sodium to 40 mL of methanol was added 4.8 g (48 mmol) of methylmercaptan followed by 6.6 g (40 mmol) of 5-chloro-2-pentanone ethylene ketal. The mixture was refluxed for 4 h and an additional 50 mmol each of sodium and methylmercaptan was added and then refluxed an additional 4 hours to complete the reaction. 50 mL of toluene was added and the mixture washed twice with 10 mL of 1N sodium hydroxide. The toluene layer was dried over magnesium sulfate and evaporated to give 7.1 g of 5-methylthio-2-pentanone ethylene ketal. This was stirred in 60 mL of 70% trifluoroacetic acid for 24 h at room temperature. The mixture was neutralized with sodium carbonate and extracted with 200 mL of ether. The ether extract was dried and evaporated to yield 3.5 g of the desired ketone as an oil.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 54 mmol, 2.4 g | [Na] | Na
reactant | methylmercaptan | 48 mmol, 4.8 g | CS | CH4S
reactant | 5-chloro-2-pentanone ethylene ketal | 40 mmol, 6.6 g | C1COC(C)(CCCCl)O1 | C7H13ClO2
reactant | sodium | 50 mmol | [Na] | Na
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 40 mL | CO | CH4O
product | 5-methylthio-2-pentanone ethylene ketal | 7.1 g | C1COC(C)(CCCSC)O1 | C8H16O2S
